US03976644
A solution was prepared by dissolving 21.8 grams of tetrachloropyrazine in 100 milliliters of dioxane. The solution was diluted with 250 milliliters of ethanol and 15 milliliters of hydrazine hydrate was slowly added thereto. The temperature rose from 23°C to 37°C. The solution was held, with stirring, at 23°C for 20 minutes and the 3,5,6-trichloro-2-hydrazinopyrazine product was isolated by pouring the reaction mixture in water and filtering off the solid product. The product melted at 167°-168°C and was recovered in a yield of 20.2 grams (94 percent of theoretical).

reactant | tetrachloropyrazine | 21.8 grams | ClC1=C(N=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | hydrazine hydrate | 15 milliliters | O.NN
solvent | dioxane | 100 milliliters | O1CCOCC1 | C4H8O2
solvent | ethanol | 250 milliliters | C(C)O | C2H6O
product | 3,5,6-trichloro-2-hydrazinopyrazine | ClC=1C(=NC(=C(N1)Cl)Cl)NN | C4H3Cl3N4
